US07129235B2
ethyl 1-benzyl-3-hydroxy-4-piperidinecarboxylate
Ethyl 1-benzyl-3-oxo-4-piperidinecarboxylate (1.0 g, 3.8 mmol) in diethyl ether (50 mL) was treated with lithium aluminumhydride (150 mg, 3.9 mmol) at and −78° C. After stirring at −78° C. for 30 minutes, the mixture was allowed to warm to room temperature over 2 hours. The mixture was quenched with saturated ammonium chloride. Standard work-up gave a crude product which was purified via chromatography (SiO2, ethyl acetate:hexanes, 1:6) to provide the title compound. MS (EI, M+H)+264.

reactant | Ethyl 1-benzyl-3-oxo-4-piperidinecarboxylate | 3.8 mmol, 1.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O | C15H19NO3
reactant | lithium | [Li] | Li
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | ethyl 1-benzyl-3-hydroxy-4-piperidinecarboxylate | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)O | C15H21NO3
